US03971824
Preparation of 4-pentylphenyl 2-chloro-4-hydroxybenzoate
To a suspension of p-pentylphenol (0.15 mole) and 2-chloro-4-hydroxybenzoic acid (0.10 mole) in toluene (500 ml.) is added concentrated sulfuric acid (0.5 g.) and boric acid (0.31 g.) (5 mole percent). The reaction mixture is refluxed for 29 hours under a Dean-Stark trap. The solvent is then removed under reduced pressure and the product is washed with ligroin. The resulting 4-pentylphenyl 2-chloro-4-hydroxybenzoate is recrystallized from an ethanol/water mixture to give 25.6 g., 81% of pure product, m.p. 149°-151°C.

reactant | p-pentylphenol | 0.15 mole | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | 2-chloro-4-hydroxybenzoic acid | 0.10 mole | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 0.31 g | B(O)(O)O | BH3O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-pentylphenyl 2-chloro-4-hydroxybenzoate | ClC1=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC(=C1)O | C18H19ClO3
